US04808572
(b) 6-fluoro-1-(2-nonylphenyl)-1-trans-hexene
A solution of 8.17 g of -(2-nonylphenyl)-1-trans-hexen-6-ol in 20 ml of dichloromethane is added dropwise over a period of 20 minutes to a mixture, cooled with an ice-bath and stirred under an argon atmosphere, of 4.68 g of diethylaminosulphur trifluoride in 20 ml of dichloromethane. After further stirring at room temperature for 14 hours, water is added, and the organic layer is separated off and washed with saturated sodium bicarbonate solution and water. The crude product remaining after the organic phase has been dried and concentrated by evaporation is purified by flash chromatography on silica gel with petroleum ether. The title compound is obtained in the form of a colourless oil.

reactant | (2-nonylphenyl)-1-trans-hexen-6-ol | C(CCCCCCCC)C1=C(C=CC=C1)\C=C\CCCCO | C21H34O
reactant | diethylaminosulphur trifluoride | 4.68 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-fluoro-1-(2-nonylphenyl)-1-trans-hexene | FCCCC/C=C/C1=C(C=CC=C1)CCCCCCCCC | C21H33F
